US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-isopropyl-3-methoxy-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (9 eq), ethylene glycol/Et2O (1/7.5 v/v, 17 ml), 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-isopropyl-3-hydroxy-1H-pyrrol-2(5H)-one (0.15 g, 0.34 mmol, 1 eq) and MeOH (10 ml), the product was further purified by prep TLC; yield: 0.040 g (10.4%); MS m/z: 384.1 [M+H]+; 1H-NMR: (400 MHz, CDCl3) δ: 7.88 (s, 1H), 7.80 (bs, 1H), 7.52 (bs, 1H), 7.2-6.88 (m, 4H), 6.0 (s, 1H), 4.08 (s, 3H), 2.61 (bs, 1H), 1.1-1.04 (m, 6H); HPLC (METHOD [A]): rt 14.51 min (96.9%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 9 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 17 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-isopropyl-3-hydroxy-1H-pyrrol-2(5H)-one | 0.34 mmol, 0.15 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)C(C)C)O)=O | C20H17F2N3O2
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-isopropyl-3-methoxy-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)C(C)C)OC)=O | C21H19F2N3O2
